US04388238
766 g of isophorone diamine (3-aminomethyl-3,5,5-trimethyl-cyclohexylamine), 1054 g of n-butyl carbamate and 1000 g n-butanol were reacted in the apparatus described in Example 1 for 4.0 hours at 180° C. After the apparatus had cooled and the pressure had been reduced, the reaction mixture was removed, filtered and analyzed by high pressure liquid chromatography. A yield of 1350 g (81% of the theoretical yield) of 1-(n-butoxy-carbonylamino)-3,3,5-trimethyl-5-(n-butoxy carbonylamino-methyl)-cyclohexane was obtained.

reactant | isophorone diamine | 766 g | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
reactant | n-butyl carbamate | 1054 g | C(N)(OCCCC)=O | C5H11NO2
solvent | n-butanol | 1000 g | C(CCC)O | C4H10O
product | 1-(n-butoxy-carbonylamino)-3,3,5-trimethyl-5-(n-butoxy carbonylamino-methyl)-cyclohexane | C(CCC)OC(=O)NC1CC(CC(C1)(CNC(=O)OCCCC)C)(C)C | C20H38N2O4
